US05006570
Step IV - Preparation of N-(1-Cyclohexenylmethyl-2-pyrrolidinyl-methyl)-5-cyclopropylmethylsulphonyl-2-methyl-2,3-dihydrobenzofuran-7-carboxamide (Compound of the Invention)
97 g of 5-cyclopropylmethylsulphonyl-2-methyl-2,3-dihydrobenzofuran-7-carboxylic acid, 350 ml of chloroform and 34 g of triethylamine were introduced into a 1-liter round-bottomed flask. The solution was cooled to 0° C. and 36 g of ethyl chloroformate were then added dropwise, while maintaining the temperature between 0° C. and 5° C. The contents were then stirred for 1 hour between 0° C. and 5° C. and 67 g of 1-cyclohexenylmethyl-2-aminomethylpyrrolidine were then poured in dropwise, between 5° C. and 10° C. The mixture was stirred for 1 hour, between 5° and 10° C. and the temperature was then allowed to rise. The solution obtained was taken up with 2 liters of water. Acetic acid was added until a pH of 4 was obtained and the chloroform was distilled off. The solution remaining was filtered and then made alkaline with 30% sodium hydroxide until a color change of phenolphthalein was observed. The oil formed was decanted and extracted with ether and the solution containing ether was then dried over potassium carbonate. The ether was distilled off, the distillation towards the end being carried out under vacuum, until a constant weight was obtained.

reactant | 5-cyclopropylmethylsulphonyl-2-methyl-2,3-dihydrobenzofuran-7-carboxylic acid | 97 g | C1(CC1)CS(=O)(=O)C=1C=C(C2=C(CC(O2)C)C1)C(=O)O | C14H16O5S
reactant | chloroform | 350 ml | C(Cl)(Cl)Cl | CHCl3
reactant | ethyl chloroformate | 36 g | ClC(=O)OCC | C3H5ClO2
reactant | 1-cyclohexenylmethyl-2-aminomethylpyrrolidine | 67 g | C1(=CCCCC1)CN1C(CCC1)CN | C12H22N2
solvent | Acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 2 liters | O | H2O
solvent | triethylamine | 34 g | C(C)N(CC)CC | C6H15N
product | N-(1-Cyclohexenylmethyl-2-pyrrolidinyl-methyl)-5-cyclopropylmethylsulphonyl-2-methyl-2,3-dihydrobenzofuran-7-carboxamide | C1(=CCCCC1)CN1C(CCC1)CNC(=O)C1=CC(=CC=2CC(OC21)C)S(=O)(=O)CC2CC2 | C26H36N2O4S
